US06326369B1
N-Methyl-2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxamide
A THF (3.0 ml) solution of 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indan-carboxylic acid (300 mg, 0.731 mmols) was added to a THF (3.0 ml) suspension of methyl ammonium chloride (247 mg, 3.66 nmnols), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (420 mg, 2.19 mmols), 1-hydroxybenzotriazole monohydrate (335 mg, 2.19 mmols) and triethylamine (1.02 ml, 7.31 mmols), at room temperature. The reaction mixture was stirred for 12 hours, and then concentrated in vacuo. Water was added to the resulting residue, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by alumina column chromatography (ethyl acetate) to obtain the entitled compound (277 mg) as an oil.

reactant | 2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indan-carboxylic acid | 0.731 mmols, 300 mg | OCCCCCCCCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)O | C22H34O7
reactant | methyl ammonium chloride | 247 mg | [Cl-].C[NH3+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.19 mmols, 420 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 2.19 mmols, 335 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 7.31 mmols, 1.02 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
product | N-Methyl-2-(8-hydroxyoctyl)-4,5,6,7-tetramethoxy-2-indancarboxamide | 277 mg | CNC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCCO | C23H37NO6
